US06667316B1
A mixture of 2-chloro-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]-1,3-dioxoisoindolin-4-yl}acetamide (1.07 g, 2.34 mmol) and N,N-dimethylamine (2.0 M in methanol, 3.5 mL, 7.0 mmol) in tetrahydrofuran (15 mL) was stirred at room temperature for 16 hours. The solvent was removed in vacuo to give an oil. The oil was purified by chromatography (silica gel, methylene chloride:ethyl acetate 7:3) to give a white solid. To a solution of the solid in ethyl acetate (10 mL) was added hydrogen chloride in ether (1N, 4 mL). The slurry was filtered and washed with ether to give 2-(dimethylamino)-N-(2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]-1,3-dioxoisoindolin-4-yl}acetamide hydrochloride as a white solid (0.52 g, 44%); mp 100-102° C.; 1H NMR (DMSO-d6) δ10.63 (s, 1H), 10.27 (s, 1H), 8.21 (d, J=8.2 Hz, 1H), 7.84 (t, J=7.7 Hz, 1H), 7.67 (d, J=7.3 Hz, 1H), 6.98 (s, 1H), 6.89 (s, 2H), 5.63-5.57 (dd, J=6.0 and 8.8 Hz, 1H), 4.19 (b, 2H), 3.99 (q, J=6.9 Hz, 2H), 3.77-3.67 (m, 1H), 3.74 (s, 3H), 3.52-3.42 (dd, J=6.1 and 18.1 Hz, 1H), 2.84 (s, 6H), 2.12 (s, 3H), 1.30 (t, J=6.9 Hz, 3H); 13C NMR (DMSO-d6) δ205.81, 167.32, 167.14, 164.84, 148.49, 147.76, 135.85, 134.29, 131.74, 131.48, 127.70, 119.48, 119.27, 119.09, 112.19, 111.76, 63.76, 58.32, 55.48, 48.90, 44.27, 43.47, 29.87, 14.69; Anal. Calcd. For C25H30N3O6Cl: C, 59.58; H, 6.00; N, 8.34; Cl, 7.03. Found: C, 59.18; H, 6.03; N, 8.14; Cl, 6.68.

reactant | 2-chloro-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]-1,3-dioxoisoindolin-4-yl}acetamide | 2.34 mmol, 1.07 g | ClCC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(C)=O)C1=CC(=C(C=C1)OC)OCC)=O | C23H23ClN2O6
reactant | N,N-dimethylamine | 7.0 mmol, 2.0 M, 3.5 mL | CNC | C2H7N
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 1N, 4 mL | CCOCC | C4H10O
product | 2-(dimethylamino)-N-(2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]-1,3-dioxoisoindolin-4-yl}acetamide hydrochloride | 0.52 g, 44% | Cl.CN(CC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(C)=O)C1=CC(=C(C=C1)OC)OCC)=O)C | InChI=1S/C25H29N3O6.ClH/c1-6-34-21-13-16(10-11-20(21)33-5)19(12-15(2)29)28-24(31)17-8-7-9-18(23(17)25(28)32)26-22(30)14-27(3)4;/h7-11,13,19H,6,12,14H2,1-5H3,(H,26,30);1H
